US05693635
A mixture of ethyl (4,5-dihydro-6-(4-nitrobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate (0.800 g) and 2.14 g of stannous chloride dihydrate in 36 ml of ethanol is refluxed for 1 hour, cooled to room temperature and diluted with ice water. The mixture is made basic with 10% sodium bicarbonate and stirred 3.8 hours. The mixture is extracted with chloroform and the extracts combined, treated with activated carbon and filtered through anhydrous magnesium sulfate. The filtrate is concentrated under vacuum to give 0.690 g of ethyl 4,5-dihydro-6-(4-aminobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate as a tan foam: mass spectrum (CI) 393 (MH+).

reactant | 4,5-dihydro-6-(4-nitrobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate | 0.800 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC3=C(C4=C2C=CC=C4)SC(=C3)C(=O)[O-])C=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 36 ml | C(C)O | C2H6O
product | ethyl 4,5-dihydro-6-(4-aminobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate | 0.690 g | NC1=CC=C(C(=O)N2CCC3=C(C4=C2C=CC=C4)SC(=C3)C(=O)OCC)C=C1 | C22H20N2O3S
